US07572809B2
c) Preparation of trifluoro-methanesulfonic acid 7-fluoro-1-isopropoxy-3-(5-methyl-1-trifluoromethanesulfonyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester
7-Fluoro-1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (75 mg), Et3N (123 ul) was dissolved in 3 ml CH2Cl2. Trifluoro-methanesulfonic anhydride was added to this solution at 0° C. Then the mixture was stirred at room temperature for 2 hrs. Another 10 ml CH2Cl2 was added, and washed with saturated sodium bicarbonate, brine and dried with anhydrous sodium sulfate, concentrated to give crude product. It was purified by column chromatography (petroleum ether:ethyl acetate=2:1) to give product as brown solid 100 mg. (73% yield) LC-MS: m/e 581 (MH+).

reactant | 7-Fluoro-1-isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 75 mg | FC1=C(C=C2C=C(N=C(C2=C1)OC(C)C)NC1=NNC(=C1)C)O | C16H17FN4O2
reactant | Et3N | 123 ul | CCN(CC)CC | C6H15N
reactant | Trifluoro-methanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 7-fluoro-1-isopropoxy-3-(5-methyl-1-trifluoromethanesulfonyl-1H-pyrazol-3-ylamino)-isoquinolin-6-yl ester | 100 mg, 73% yield | FC1=C(C=C2C=C(N=C(C2=C1)OC(C)C)NC1=NN(C(=C1)C)S(=O)(=O)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C18H15F7N4O6S2
